US05998439
Combine ethyl 2-fur-2-ylmethoxyaceate (1.2 g, 6.5 mmol) and tetrahydrofuran (10 mL). Cool in an ice-bath. Add dropwise a solution of lithium aluminum hydride (8.0 mL, 1.0 M in THF, 8.0 mmol). After 2 hours, add water (0.3 mL), add 15% sodium hydroxide solution (0.3 mL), and add water (0.9 mL). Stir vigorously. After 15 minutes, filter the reaction mixture and dry the filtrate over Na2SO4, filter, and concentrate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 2% ethyl acetate/dichloromethane to give fur-2-ylmethyl 2-hydroxyethyl ether: Rf =0.22 (silica gel, 5% acetone/dichloromethane) Combine 1-(t-butoxycarbonyl)-4-(1H-benzimidazole-2-carbonyl)piperidine (1.71 g, 5.2 mmol), fur-2-ylmethyl 2-hydroxyethyl ether (0.74 g, 5.2 mmol), and triphenylphosphine (1.67 g, 6.4 mmol) in tetrahydrofuran (20 mL). Add diethyl azodicarboxylate (1.0 mL, 6.35 mmol). After 21 hours, evaporate the reaction mixture in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 5% acetone/dichloromethane to give 1-(t-butoxycarbonyl)-4-(1-(2-fur-2-ylmethoxy-ethyl)-1H-benzimidazole-2-carbonyl)piperidine: Rf =0.30 (silica gel, 5% acetone/dichloromethane).

reactant | 1-(t-butoxycarbonyl)-4-(1H-benzimidazole-2-carbonyl)piperidine | 5.2 mmol, 1.71 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C1=NC2=C(N1)C=CC=C2 | C18H23N3O3
reactant | fur-2-ylmethyl 2-hydroxyethyl ether | 5.2 mmol, 0.74 g | OCCOCC=1OC=CC1 | C7H10O3
reactant | triphenylphosphine | 6.4 mmol, 1.67 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 6.35 mmol, 1.0 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | acetone dichloromethane | CC(=O)C.ClCCl
product | 1-(t-butoxycarbonyl)-4-(1-(2-fur-2-ylmethoxy-ethyl)-1H-benzimidazole-2-carbonyl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C1=NC2=C(N1CCOCC=1OC=CC1)C=CC=C2 | C25H31N3O5
